US04918213
2.0 g (10 mmol) of 3-trifluoromethylheptanoic acid and 6 ml (about 80 mmol) of thionyl chloride were reacted for 2 hours under heat-refluxing, followed by distillation to obtain 1.8 g of 3-trifluoromethylheptanoic acid chloride (b.p.: 72.2°-75.0° C./25 mmHg). The acid chloride was dissolved in 10 ml of diethyl ether and added dropwise to a preliminarily ice-cooled ether solution of diazomethane, followed by stirring overnight at room temperature. After distilling off the solvent, the remainder was suspended in 15 ml of dioxane and then added to an aqueous solution at 70° C. of 1.1 g of silver oxide and 2.7 g of sodium thiosulfate (penta-hydrate), followed by stirring for 70 min. After the reaction, potassium hydroxide aqueous solution was added thereto and the mixture was filtered. 5N-nitric acid was added to the filtrate to provide an acidity as judged by Congo Red, followed by extraction with diethyl ether. The resultant ether layer was dried with anhydrous sodium sulfate, followed by distilling-off of the solvent and distillation of the product to obtain 0.42 g of objective 4-trifluoromethyloctanoic acid (b.p.: 130°-135° C./26 mmHg).

reactant | 3-trifluoromethylheptanoic acid | 10 mmol, 2.0 g | FC(C(CC(=O)O)CCCC)(F)F | C8H13F3O2
reactant | thionyl chloride | about 80 mmol, 6 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-trifluoromethylheptanoic acid chloride | 1.8 g | FC(C(CC(=O)Cl)CCCC)(F)F | C8H12ClF3O
